* c:\fossee\esim\library\subcircuitlibrary\sn74lv3t97_ep\sn74lv3t97_ep.cir

.include NMOS-180nm.lib
.include PMOS-180nm.lib
m6 net-_m11-pad3_ net-_m11-pad2_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=100u L=100u M=1
m11 net-_m10-pad1_ net-_m11-pad2_ net-_m11-pad3_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m7 net-_m12-pad3_ net-_m12-pad2_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=100u L=100u M=1
m12 net-_m10-pad1_ net-_m12-pad2_ net-_m12-pad3_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m2 net-_m2-pad1_ net-_m2-pad2_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=100u L=100u M=1
m8 net-_m10-pad1_ net-_m2-pad2_ net-_m2-pad1_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m27 net-_m27-pad1_ net-_m11-pad3_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=100u L=100u M=1
m31 net-_m10-pad1_ net-_m11-pad3_ net-_m27-pad1_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m23 net-_m23-pad1_ net-_m12-pad3_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=100u L=100u M=1
m28 net-_m10-pad1_ net-_m12-pad3_ net-_m23-pad1_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m20 net-_m20-pad1_ net-_m2-pad1_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=100u L=100u M=1
m24 net-_m10-pad1_ net-_m2-pad1_ net-_m20-pad1_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m40 net-_m10-pad1_ net-_m27-pad1_ net-_m40-pad3_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m58 net-_m10-pad1_ net-_m20-pad1_ net-_m40-pad3_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m49 net-_m40-pad3_ net-_m27-pad1_ net-_m49-pad3_ net-_m49-pad3_ CMOSN W=100u L=100u M=1
m50 net-_m49-pad3_ net-_m20-pad1_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=100u L=100u M=1
m65 net-_m65-pad1_ net-_m40-pad3_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=100u L=100u M=1
m68 net-_m10-pad1_ net-_m40-pad3_ net-_m65-pad1_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m38 net-_m10-pad1_ net-_m23-pad1_ net-_m38-pad3_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m56 net-_m10-pad1_ net-_m2-pad1_ net-_m38-pad3_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m45 net-_m38-pad3_ net-_m23-pad1_ net-_m45-pad3_ net-_m45-pad3_ CMOSN W=100u L=100u M=1
m46 net-_m45-pad3_ net-_m2-pad1_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=100u L=100u M=1
m62 net-_m62-pad1_ net-_m38-pad3_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=100u L=100u M=1
m66 net-_m10-pad1_ net-_m38-pad3_ net-_m62-pad1_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m74 net-_m74-pad1_ net-_m65-pad1_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=100u L=100u M=1
m83 net-_m74-pad1_ net-_m62-pad1_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=100u L=100u M=1
m78 net-_m10-pad1_ net-_m65-pad1_ net-_m78-pad3_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m79 net-_m78-pad3_ net-_m62-pad1_ net-_m74-pad1_ net-_m78-pad3_ CMOSP W=100u L=100u M=1
m86 net-_m86-pad1_ net-_m74-pad1_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=100u L=100u M=1
m88 net-_m10-pad1_ net-_m74-pad1_ net-_m86-pad1_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m3 net-_m25-pad2_ net-_m3-pad2_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=100u L=100u M=1
m9 net-_m10-pad1_ net-_m3-pad2_ net-_m25-pad2_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m4 net-_m10-pad3_ net-_m10-pad2_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=100u L=100u M=1
m10 net-_m10-pad1_ net-_m10-pad2_ net-_m10-pad3_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m1 net-_m1-pad1_ net-_m1-pad2_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=100u L=100u M=1
m5 net-_m10-pad1_ net-_m1-pad2_ net-_m1-pad1_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m25 net-_m25-pad1_ net-_m25-pad2_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=100u L=100u M=1
m29 net-_m10-pad1_ net-_m25-pad2_ net-_m25-pad1_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m21 net-_m21-pad1_ net-_m10-pad3_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=100u L=100u M=1
m26 net-_m10-pad1_ net-_m10-pad3_ net-_m21-pad1_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m19 net-_m19-pad1_ net-_m1-pad1_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=100u L=100u M=1
m22 net-_m10-pad1_ net-_m1-pad1_ net-_m19-pad1_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m39 net-_m10-pad1_ net-_m25-pad1_ net-_m39-pad3_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m57 net-_m10-pad1_ net-_m19-pad1_ net-_m39-pad3_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m47 net-_m39-pad3_ net-_m25-pad1_ net-_m47-pad3_ net-_m47-pad3_ CMOSN W=100u L=100u M=1
m48 net-_m47-pad3_ net-_m19-pad1_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=100u L=100u M=1
m63 net-_m63-pad1_ net-_m39-pad3_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=100u L=100u M=1
m67 net-_m10-pad1_ net-_m39-pad3_ net-_m63-pad1_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m37 net-_m10-pad1_ net-_m21-pad1_ net-_m37-pad3_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m55 net-_m10-pad1_ net-_m1-pad1_ net-_m37-pad3_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m43 net-_m37-pad3_ net-_m21-pad1_ net-_m43-pad3_ net-_m43-pad3_ CMOSN W=100u L=100u M=1
m44 net-_m43-pad3_ net-_m1-pad1_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=100u L=100u M=1
m61 net-_m61-pad1_ net-_m37-pad3_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=100u L=100u M=1
m64 net-_m10-pad1_ net-_m37-pad3_ net-_m61-pad1_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m73 net-_m73-pad1_ net-_m63-pad1_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=100u L=100u M=1
m82 net-_m73-pad1_ net-_m61-pad1_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=100u L=100u M=1
m76 net-_m10-pad1_ net-_m63-pad1_ net-_m76-pad3_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m77 net-_m76-pad3_ net-_m61-pad1_ net-_m73-pad1_ net-_m76-pad3_ CMOSP W=100u L=100u M=1
m85 net-_m85-pad1_ net-_m73-pad1_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=100u L=100u M=1
m87 net-_m10-pad1_ net-_m73-pad1_ net-_m85-pad1_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m14 net-_m14-pad1_ net-_m14-pad2_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=100u L=100u M=1
m17 net-_m10-pad1_ net-_m14-pad2_ net-_m14-pad1_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m15 net-_m15-pad1_ net-_m15-pad2_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=100u L=100u M=1
m18 net-_m10-pad1_ net-_m15-pad2_ net-_m15-pad1_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m13 net-_m13-pad1_ net-_m13-pad2_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=100u L=100u M=1
m16 net-_m10-pad1_ net-_m13-pad2_ net-_m13-pad1_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m34 net-_m34-pad1_ net-_m14-pad1_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=100u L=100u M=1
m36 net-_m10-pad1_ net-_m14-pad1_ net-_m34-pad1_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m32 net-_m32-pad1_ net-_m15-pad1_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=100u L=100u M=1
m35 net-_m10-pad1_ net-_m15-pad1_ net-_m32-pad1_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m30 net-_m30-pad1_ net-_m13-pad1_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=100u L=100u M=1
m33 net-_m10-pad1_ net-_m13-pad1_ net-_m30-pad1_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m42 net-_m10-pad1_ net-_m34-pad1_ net-_m42-pad3_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m60 net-_m10-pad1_ net-_m30-pad1_ net-_m42-pad3_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m53 net-_m42-pad3_ net-_m34-pad1_ net-_m53-pad3_ net-_m53-pad3_ CMOSN W=100u L=100u M=1
m54 net-_m53-pad3_ net-_m30-pad1_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=100u L=100u M=1
m70 net-_m70-pad1_ net-_m42-pad3_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=100u L=100u M=1
m72 net-_m10-pad1_ net-_m42-pad3_ net-_m70-pad1_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m41 net-_m10-pad1_ net-_m32-pad1_ net-_m41-pad3_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m59 net-_m10-pad1_ net-_m13-pad1_ net-_m41-pad3_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m51 net-_m41-pad3_ net-_m32-pad1_ net-_m51-pad3_ net-_m51-pad3_ CMOSN W=100u L=100u M=1
m52 net-_m51-pad3_ net-_m13-pad1_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=100u L=100u M=1
m69 net-_m69-pad1_ net-_m41-pad3_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=100u L=100u M=1
m71 net-_m10-pad1_ net-_m41-pad3_ net-_m69-pad1_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m75 net-_m75-pad1_ net-_m70-pad1_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=100u L=100u M=1
m84 net-_m75-pad1_ net-_m69-pad1_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=100u L=100u M=1
m80 net-_m10-pad1_ net-_m70-pad1_ net-_m80-pad3_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m81 net-_m80-pad3_ net-_m69-pad1_ net-_m75-pad1_ net-_m80-pad3_ CMOSP W=100u L=100u M=1
m89 net-_m89-pad1_ net-_m75-pad1_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=100u L=100u M=1
m90 net-_m10-pad1_ net-_m75-pad1_ net-_m89-pad1_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
* u1  net-_m11-pad2_ net-_m12-pad2_ net-_m3-pad2_ net-_m10-pad2_ net-_m14-pad2_ net-_m15-pad2_ net-_m1-pad3_ net-_m89-pad1_ net-_m13-pad2_ net-_m85-pad1_ net-_m1-pad2_ net-_m86-pad1_ net-_m2-pad2_ net-_m10-pad1_ port
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
